US07521541B2
The term “thiol reactivity value” is a quantitative characterization of the reactivity of free cysteine amino acids. The thiol reactivity value is the percentage of a free cysteine amino acid in a cysteine engineered antibody which reacts with a thiol-reactive reagent, and converted to a maximum value of 1. For example, a free cysteine amino acid on a cysteine engineered antibody which reacts in 100% yield with a thiol-reactive reagent, such as a biotin-maleimide reagent, to form a biotin-labelled antibody has a thiol reactivity value of 1.0. Another cysteine amino acid engineered into the same or different parent antibody which reacts in 80% yield with a thiol-reactive reagent has a thiol reactivity value of 0.8. Another cysteine amino acid engineered into the same or different parent antibody which fails totally to react with a thiol-reactive reagent has a thiol reactivity value of 0. Determination of the thiol reactivity value of a particular cysteine may be conducted by ELISA assay, mass spectroscopy, liquid chromatography, autoradiography, or other quantitative analytical tests.

reactant | cysteine | N[C@@H](CS)C(=O)O | C3H7NO2S
reactant | biotin-maleimide | C1(C=CC(N1)=O)=O.OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12
product | biotin | 100% yield | OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | C10H16N2O3S
